US06498169B1
Synthesis of 4-[N-(3,4-Methylenedioxyphenyl)-N-[[2-(3,4,5-trimethoxypheny) pyridin-3-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride
4-(3,4-Methylenedioxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (119 mg) and 3-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (114 mg) were condensed in the same manner as described in Example 9. Yellow syrup obtained was converted to a trihydrochloroide to give the title compound as yellow powder.

reactant | 4-(3,4-Methylenedioxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 119 mg | C1OC=2C=C(C=CC2O1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H31N3O5
reactant | 3-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 114 mg | ClCC=1C(=NC=CC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-(3,4-Methylenedioxyphenyl)-N-[[2-(3,4,5-trimethoxypheny) pyridin-3-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride | Cl.Cl.Cl.C1OC=2C=C(C=CC2O1)N(CC=1C(=NC=CC1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C42H46N4O8.3ClH/c1-47-36-19-29(20-37(48-2)41(36)51-5)33-18-27(11-15-43-33)24-45-16-12-31(13-17-45)46(32-9-10-34-35(23-32)54-26-53-34)25-28-8-7-14-44-40(28)30-21-38(49-3)42(52-6)39(22-30)50-4;;;/h7-11,14-15,18-23,31H,12-13,16-17,24-26H2,1-6H3;3*1H
